US05162524
Diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio]-3-phenylacetamido-2-oxo-azetidin-1-yl]-3-fluorosulfonyloxy-2-butenoate (XVf)
Under a stream of dry nitrogen, the flask was charged with 2.51 g (3.76 mmol) of diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio]-3-phenylacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate and 45 mL of dry dichloromethane. To the resulting solution at -78° C. was added 0.56 mL (3.95 mmol) of triethylamine followed by 0.41 mL (3.95 mmol) of fluorosulfonic anhydride. After 45 min, the reaction mixture was poured into water (50 mL). The organic phase was separated and washed with water (50 mL) and brine (50 mL). It was further and dried (magnesium sulfate), filtered, and concentrated in vacuo to yield 2.67 g (95%) of the title product as a mixture of Z (major) and E (minor) isomers (6:1).

reactant | diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio]-3-phenylacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate | 3.76 mmol, 2.51 g | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=C(C)O)=O)NC(CC2=CC=CC=C2)=O | C35H29N3O5S3
reactant | dichloromethane | 45 mL | ClCCl | CH2Cl2
reactant | triethylamine | 3.95 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | fluorosulfonic anhydride | 3.95 mmol, 0.41 mL | FS(=O)(=O)OS(=O)(=O)F | F2O5S2
solvent | water | 50 mL | O | H2O
product | Diphenylmethyl 2-[(3R, 4R)-4-[(benzothiazol-2-yl)dithio]-3-phenylacetamido-2-oxo-azetidin-1-yl]-3-fluorosulfonyloxy-2-butenoate | 2.67 g, 95% | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)=C(C)OS(=O)(=O)F)=O)NC(CC2=CC=CC=C2)=O | C35H28FN3O7S4
